US09193935B2
To a solution of (4-(tert-butyldimethylsilyloxy)-3-ethoxyphenyl)methanol (12.5 g, 44.4 mmol, 1.0 equiv.) in CH2CI2 (45 mL), PBr3 (5.0 mL, 53.2 mmol, 1.2 equiv.) was added at 0° C., and the mixture was stirred at 0° C. for 30 min. After slow addition of sat. aq. NaHCO3-solution, the aqueous layer was extracted with CH2Cl2 (2×). The combined organic phases were washed with brine, dried (MgSO4), filtered and the filtrate was concentrated to yield 14.5 g (94%) of (4-(bromomethyl)-2-ethoxyphenoxy)(tert-butyl)dimethylsilane as a light yellow oil.

reactant | (4-(tert-butyldimethylsilyloxy)-3-ethoxyphenyl)methanol | 44.4 mmol, 12.5 g, 1.0 equiv. | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)CO)OCC | C15H26O3Si
reactant | PBr3 | 53.2 mmol, 5.0 mL, 1.2 equiv. | P(Br)(Br)Br | Br3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (4-(bromomethyl)-2-ethoxyphenoxy)(tert-butyl)dimethylsilane | 14.5 g, 94% | BrCC1=CC(=C(O[Si](C)(C)C(C)(C)C)C=C1)OCC | C15H25BrO2Si
